### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Subgraph): add `Embedding.ofIsInduced` and `IsInduced.map`

### PR DESCRIPTION
**Pull request by FordUniver**
Three additions to the `SimpleGraph.Subgraph` API for induced subgraphs. `Embedding.ofIsInduced` is the canonical embedding of an induced subgraph into its ambient graph, paired with `toHom_ofIsInduced` and `ofIsInduced_apply` lemmas. This is the embedding counterpart of `Subgraph.hom`, which only produces a homomorphism because non-induced subgraphs do not reflect adjacency. `Subgraph.IsInduced.map` then records that the image of an induced subgraph under a graph embedding is induced, strengthened to `IsInduced.map_iso` for the iso case.

Co-authored-by: Malte Jackisch  <45597826+MaltyBlanket@users.noreply.github.com>

---

**Orthogonal pre-requisite of the `Copy` / `InducedCopy` refactor-feat stack.**

Extracted as a prerequisite from #38631 that is otherwise independent of the wider `Copy` / `InducedCopy` refactor-feat stack.

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 1]
```diff
@@ -868,6 +879,20 @@ lemma adj_iff_of_neighborSet_equiv {v : V} {H : Subgraph G}
 
 end Subgraph
 
+/-- The canonical embedding of an induced subgraph into the ambient graph.
+Unlike `Subgraph.hom`, this is an embedding rather than a homomorphism, since induced subgraphs
+reflect adjacency. -/
+def Embedding.ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph) (hG' : G'.IsInduced) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:879]: Can you use this in `IsInduced.isIndContained`?

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 2]
```diff
@@ -669,6 +669,17 @@ theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f
 @[simp] lemma edgeSet_map (f : G →g G') (H : G.Subgraph) :
     (H.map f).edgeSet = Sym2.map f '' H.edgeSet := Sym2.fromRel_relationMap ..
 
+protected lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
+    (H.map e.toHom).IsInduced := by
+  rintro _ ⟨a, ha, rfl⟩ _ ⟨b, hb, rfl⟩ hAdj
+  simp only [map_adj, Relation.map_apply]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]: This is redundant
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 3]
```diff
@@ -868,6 +879,20 @@ lemma adj_iff_of_neighborSet_equiv {v : V} {H : Subgraph G}
...
+def Embedding.ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph) (hG' : G'.IsInduced) :
+    G'.coe ↪g G where
+  toEmbedding := .subtype _
+  map_rel_iff' := hG'.adj.symm
+
+@[simp] lemma Embedding.toHom_ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph)
+    (hG' : G'.IsInduced) : (Embedding.ofIsInduced G' hG').toHom = G'.hom := rfl
+
+@[simp] lemma Embedding.ofIsInduced_apply {G : SimpleGraph V} (G' : G.Subgraph)
+    (hG' : G'.IsInduced) (v : G'.verts) : Embedding.ofIsInduced G' hG' v = ↑v := rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
    (hG' : G'.IsInduced) (v : G'.verts) : Embedding.ofIsInduced G' hG' v = v := rfl
```
AFAIK the convention is to add explicit arrows only when Lean can't figure them out on its own

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 4]
```diff
@@ -669,6 +669,17 @@ theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f
...
+protected lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
+    (H.map e.toHom).IsInduced := by
+  rintro _ ⟨a, ha, rfl⟩ _ ⟨b, hb, rfl⟩ hAdj
+  simp only [map_adj, Relation.map_apply]
+  exact ⟨a, b, hH ha hb (e.map_adj_iff.mp hAdj), rfl, rfl⟩
+
+@[simp] protected lemma IsInduced.map_iff (e : G ≃g G') {H : G.Subgraph} :
+    (H.map e.toHom).IsInduced ↔ H.IsInduced :=
+  ⟨fun h => by simpa [← map_comp] using h.map e.symm.toEmbedding,
+   fun h => h.map e.toEmbedding⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
  ⟨fun h ↦ by simpa [← map_comp] using h.map e.symm.toEmbedding, fun h ↦ h.map e.toEmbedding⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 5]
```diff
@@ -868,6 +879,20 @@ lemma adj_iff_of_neighborSet_equiv {v : V} {H : Subgraph G}
...
+reflect adjacency. -/
+def Embedding.ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph) (hG' : G'.IsInduced) :
+    G'.coe ↪g G where
+  toEmbedding := .subtype _
+  map_rel_iff' := hG'.adj.symm
+
+@[simp] lemma Embedding.toHom_ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph)
+    (hG' : G'.IsInduced) : (Embedding.ofIsInduced G' hG').toHom = G'.hom := rfl
+
+@[simp] lemma Embedding.ofIsInduced_apply {G : SimpleGraph V} (G' : G.Subgraph)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]: Can you add a coercion to a function instead? and also a `.toEmbedding` for good measure.
```lean
@[simp]
theorem Embedding.coe_ofIsInduced {G : SimpleGraph V} {H : G.Subgraph} (h : H.IsInduced) :
    ⇑(Embedding.ofIsInduced H h) = (↑) :=
  rfl

@[simp]
theorem Embedding.toEmbedding_ofIsInduced {G : SimpleGraph V} {H : G.Subgraph} (h : H.IsInduced) :
    (Embedding.ofIsInduced H h).toEmbedding = .subtype _ :=
  rfl
```
Then the `_apply` theorem is redundant.

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean (hunk 1 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:879]: Yes, that was the plan in #38631. I'll do it here already and rebase that.

**Comment by FordUniver** [comment]
@SnirBroshi I added all suggestions. Using it for `IsInduced.isIndContained` in #38631 was exactly the plan. I already added that change here and rebased.

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 6]
```diff
@@ -868,6 +877,23 @@ lemma adj_iff_of_neighborSet_equiv {v : V} {H : Subgraph G}
 
 end Subgraph
 
+/-- The canonical embedding of an induced subgraph into the ambient graph.
+Unlike `Subgraph.hom`, this is an embedding rather than a homomorphism, since induced subgraphs
+reflect adjacency. -/
+def Embedding.ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph) (hG' : G'.IsInduced) :
+    G'.coe ↪g G where
+  toEmbedding := .subtype _
+  map_rel_iff' := hG'.adj.symm
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:882]: AFAICT most of the file uses `H` for subgraphs, so:
```suggestion
def Embedding.ofIsInduced {G : SimpleGraph V} (H : G.Subgraph) (h : H.IsInduced) :
    H.coe ↪g G where
  toEmbedding := .subtype _
  map_rel_iff' := h.adj.symm
```
and similarly below

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 7]
```diff
@@ -411,9 +411,7 @@ protected lemma Iso.isIndContained' (e : G ≃g H) : H ⊴ G := e.symm.isIndCont
 
 protected lemma Subgraph.IsInduced.isIndContained {G' : G.Subgraph} (hG' : G'.IsInduced) :
     G'.coe ⊴ G :=
-  ⟨{ toFun := (↑)
-     inj' := Subtype.coe_injective
-     map_rel_iff' := hG'.adj.symm }⟩
+  ⟨Embedding.ofIsInduced G' hG'⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
  Embedding.ofIsInduced G' hG' |>.isIndContained
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean (hunk 6 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:882]: Seems to be a mix. I am counting 19 `(H : G.Subgraph)` and 22 `G' : G.Subgraph` excluding my additions, so I will leave it for now. Years of writing combinatorics papers makes me very uncomfortable naming the smaller graph `H`... In my opinion this is also a candidate for `G`uest  / `H`ost convention should it pass in `Copy.lean`.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:882]: Please do not resolve threads where you haven't done what was asked.

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 8]
```diff
@@ -668,6 +668,15 @@ theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f
 @[simp] lemma edgeSet_map (f : G →g G') (H : G.Subgraph) :
     (H.map f).edgeSet = Sym2.map f '' H.edgeSet := Sym2.fromRel_relationMap ..
 
+protected lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
+    (H.map e.toHom).IsInduced := by
+  rintro _ ⟨a, ha, rfl⟩ _ ⟨b, hb, rfl⟩ hAdj
+  exact ⟨a, b, hH ha hb (e.map_adj_iff.mp hAdj), rfl, rfl⟩
+
+@[simp] protected lemma IsInduced.map_iff (e : G ≃g G') {H : G.Subgraph} :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
@[simp] protected lemma isInduced_map_iso (e : G ≃g G') {H : G.Subgraph} :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
